US04605764
Preparation of N-allyl-N(2-methoxyethoxymethyl)dichloroacetamide
A solution of N-allyl-N-chloromethyldichloroacetamide (21.7 g., 0.1 mole) and 2-methoxyethanol (8.4 g., 8.7 ml., 0.11 mole) in dry chloroform (50 ml.) is placed in a round-bottomed, four-necked flask of 250 ml., equipped with a calcium chloride tube, reflux condenser, mechanical stirrer, dropping funnel and thermometer. Triethylamine (10.1 g., 13.9 ml., 0.1 mole) is added under stirring and external cooling in such a rate that the temperature does not exceed 35° C. After the addition is complete, the mixture is stirred for an additional 2 hours at room temperature. The mixture is washed with water (2×70 ml) for removing the triethylamine hydrochloride formed, the chloroform solution is dried over anhydrous sodium sulfate and, after distillation of the chloroform, the product is dried under reduced pressure to give 23.6 g. (92%) of a pale yellow oil which is the named compound of 95% purity according to an analysis by gas chromatography; nD25 =1.4801. This product is directly useful for practical purposes.

reactant | N-allyl-N-chloromethyldichloroacetamide | 0.1 mole, 21.7 g | C(C=C)N(C(C(Cl)Cl)=O)CCl | C6H8Cl3NO
reactant | 2-methoxyethanol | 0.11 mole, 8.7 ml, 8.4 g | COCCO | C3H8O2
reactant | Triethylamine | 0.1 mole, 13.9 ml, 10.1 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-allyl-N(2-methoxyethoxymethyl)dichloroacetamide | C(C=C)N(C(C(Cl)Cl)=O)COCCOC | C9H15Cl2NO3
